US06413964B1
Step I: Preparation of N-[1-(4-Cyano-3-fluorophenyl)-4-hydroxy-1-(1-methyl-1H-imidazol-5-yl)butyl]-2-methylpropane-2-sulfinamide
TFA (1 mL) was added to a solution of N-[4-{[tert-butyl(dimethyl)silyl]oxy}-1-(4-cyano-3-fluorophenyl)-1-(1-methyl-1H-imidazol-5-yl)butyl]-2-methylpropane-2-sulfinamide (0.111 g, 0.219 mmol) in CH3CN ( ): H2O (20 mL) with stirring at ambient temperature. After 0.5 h aqueous saturated NaHCO3 solution was added, the CH3CN was removed in vacuo, and the residue was chromatographed on a Chiralcel AD column eluting with 90/10, hexane/EtOH to give the two diastereomers of the title compound. MS(M+1) 393.

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-[4-{[tert-butyl(dimethyl)silyl]oxy}-1-(4-cyano-3-fluorophenyl)-1-(1-methyl-1H-imidazol-5-yl)butyl]-2-methylpropane-2-sulfinamide | 0.219 mmol, 0.111 g | [Si](C)(C)(C(C)(C)C)OCCCC(C1=CN=CN1C)(C1=CC(=C(C=C1)C#N)F)NS(=O)C(C)(C)C | C25H39FN4O2SSi
reactant | H2O | 20 mL | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH3CN | CC#N | C2H3N
product | N-[1-(4-Cyano-3-fluorophenyl)-4-hydroxy-1-(1-methyl-1H-imidazol-5-yl)butyl]-2-methylpropane-2-sulfinamide | C(#N)C1=C(C=C(C=C1)C(CCCO)(C1=CN=CN1C)NS(=O)C(C)(C)C)F | C19H25FN4O2S
